US07872031B2
To a solution of 2-chloro-3-nitropyridine (5.0 g, 31.53 mmol) in anhydrous NMP (100 mL) was added tert-butylamine (10 mL, 94.52 mmol). The solution was heated at 60° C. for 14 hours and cooled. The mixture was poured into 1N HCl solution (400 mL) and extracted with EtOAc (3×150 mL). The combined organic layers were washed with saturated NaHCO3 solution and dried over MgSO4. After filtration, the solvent was evaporated under vacuum to afford N-tert-butyl-3-nitropyridin-2-amine as dark brown syrup.

reactant | 2-chloro-3-nitropyridine | 31.53 mmol, 5.0 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | tert-butylamine | 94.52 mmol, 10 mL | C(C)(C)(C)N | C4H11N
reactant | HCl | 1N, 400 mL | Cl | ClH
solvent | NMP | 100 mL | CN1CCCC1=O | C5H9NO
product | N-tert-butyl-3-nitropyridin-2-amine | C(C)(C)(C)NC1=NC=CC=C1[N+](=O)[O-] | C9H13N3O2
